US08211925B2
{2-[3-(4-Fluoro-phenoxy)-5-((S)-2-methoxy-1-methyl-ethoxy)-benzoylamino]-thiazol-4-yl}-acetic acid ethyl ester was prepared from 3-{(1S)-2-methoxy-(methylethyl)oxy}-5-{[4-fluoro phenyl]oxy}benzoic acid (prepared as described in general synthetic descriptions F) and ethyl 2-aminothiazol-4-ylacetate following general procedure A.

reactant | 3-{(1S)-2-methoxy-(methylethyl)oxy}-5-{[4-fluoro phenyl]oxy}benzoic acid | COC[C@@H](OC=1C=C(C(=O)O)C=C(C1)OC1=CC=C(C=C1)F)C | C17H17FO5
reactant | ethyl 2-aminothiazol-4-ylacetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
product | {2-[3-(4-Fluoro-phenoxy)-5-((S)-2-methoxy-1-methyl-ethoxy)-benzoylamino]-thiazol-4-yl}-acetic acid ethyl ester | C(C)OC(CC=1N=C(SC1)NC(C1=CC(=CC(=C1)O[C@H](COC)C)OC1=CC=C(C=C1)F)=O)=O | C24H25FN2O6S
